US06768023B2
In a flask p-xylene (1 ml), t-butyl nitrite (1 mmol), N-hydroxyphthalimide (0.1 mmol), and acetic acid (1 ml) were placed and were stirred at 80° C. in an atmosphere of argon gas (1 atm=0.101 MPa) for 20 hours. The resulting reaction mixture was analyzed to find that p-methylbenzaldehyde oxime, p-methylbenzaldehyde, and p-methylbenzonitrile were formed in yields of 55%, 4%, and 5%, respectively.

reactant | t-butyl nitrite | 1 mmol | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-hydroxyphthalimide | 0.1 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | p-methylbenzaldehyde oxime | CC1=CC=C(C=NO)C=C1 | C8H9NO
reactant | p-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | p-xylene | 1 ml | CC=1C=CC(=CC1)C | C8H10
product | p-methylbenzonitrile | CC1=CC=C(C#N)C=C1 | C8H7N
